### PR TITLE
feat: more functorial results about DFinsupp

### PR DESCRIPTION
**Pull request by eric-wieser**
We have these already for Finsupp.

The `DFinsupp` statements need some extra casts in some places.

---

- [ ] depends on: #27182

[Open in Gitpod](https://gitpod.io/from-referrer/)

[#mathlib4 > Equiv.cast for structures @ 💬](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/Equiv.2Ecast.20for.20structures/near/521390935)

### CODE REVIEW

File: Mathlib/Data/DFinsupp/Defs.lean [hunk 1]
```diff
@@ -1064,6 +1064,24 @@ theorem comapDomain_apply [∀ i, Zero (β i)] (h : κ → ι) (hh : Function.In
...
   rfl
 
+@[simp]
+theorem comapDomain_id [∀ i, Zero (β i)] : comapDomain (β := β) id Function.injective_id = id := by
+  ext; rfl
+
+@[simp]
+theorem comapDomain_comp [∀ i, Zero (β i)]
+    (h : κ → ι) (hh : Function.Injective h)
+    (h' : κ' → κ) (hh' : Function.Injective h') :
```
Comment (pechersky) [inline Mathlib/Data/DFinsupp/Defs.lean:1074]:
```suggestion
    {h : κ → ι} (hh : Function.Injective h)
    {h' : κ' → κ} (hh' : Function.Injective h') :
```

File: Mathlib/Data/DFinsupp/Defs.lean [hunk 2]
```diff
@@ -1064,6 +1064,24 @@ theorem comapDomain_apply [∀ i, Zero (β i)] (h : κ → ι) (hh : Function.In
...
+    comapDomain h' hh' ∘ comapDomain h hh = comapDomain (β := β) (h ∘ h') (hh.comp hh') := by
+  ext; rfl
+
+@[simp]
+theorem comapDomain_comapDomain [∀ i, Zero (β i)]
+    (h : κ → ι) (hh : Function.Injective h)
+    (h' : κ' → κ) (hh' : Function.Injective h') (f : Π₀ i, β i) :
```
Comment (pechersky) [inline Mathlib/Data/DFinsupp/Defs.lean:1081]:
```suggestion
    {h : κ → ι} (hh : Function.Injective h)
    {h' : κ' → κ} (hh' : Function.Injective h') (f : Π₀ i, β i) :
```

File: Mathlib/Data/DFinsupp/Defs.lean [hunk 3]
```diff
@@ -1100,6 +1118,25 @@ theorem comapDomain'_apply [∀ i, Zero (β i)] (h : κ → ι) {h' : ι → κ}
...
 
+@[simp]
+theorem comapDomain'_id [∀ i, Zero (β i)] :
+    comapDomain' (β := β) id (h' := id) (fun _ => rfl) = id := by
+  ext; rfl
+
+@[simp]
+theorem comapDomain'_comp [∀ i, Zero (β i)]
+    (h : κ → ι) {h' : ι → κ} (hh' : Function.LeftInverse h' h)
+    (h₂ : κ' → κ) {h'₂ : κ → κ'} (hh'₂ : Function.LeftInverse h'₂ h₂) :
```
Comment (pechersky) [inline Mathlib/Data/DFinsupp/Defs.lean:1129]:
```suggestion
    {h : κ → ι} {h' : ι → κ} (hh' : Function.LeftInverse h' h)
    {h₂ : κ' → κ} {h'₂ : κ → κ'} (hh'₂ : Function.LeftInverse h'₂ h₂) :
```
or maybe this is a good place to explain how you selected which are explicit and which are implict?

File: Mathlib/Data/DFinsupp/Defs.lean [hunk 4]
```diff
@@ -1100,6 +1118,25 @@ theorem comapDomain'_apply [∀ i, Zero (β i)] (h : κ → ι) {h' : ι → κ}
...
+    comapDomain' h₂ hh'₂ ∘ comapDomain' h hh' = comapDomain' (β := β) (h ∘ h₂) (hh'.comp hh'₂) := by
+  ext; rfl
+
+@[simp]
+theorem comapDomain'_comapDomain' [∀ i, Zero (β i)]
+    (h : κ → ι) {h' : ι → κ} (hh' : Function.LeftInverse h' h)
+    (h₂ : κ' → κ) {h'₂ : κ → κ'} (hh'₂ : Function.LeftInverse h'₂ h₂) (f : Π₀ i, β i) :
```
Comment (pechersky) [inline Mathlib/Data/DFinsupp/Defs.lean:1136]:
```suggestion
    {h : κ → ι} {h' : ι → κ} (hh' : Function.LeftInverse h' h)
    {h₂ : κ' → κ} {h'₂ : κ → κ'} (hh'₂ : Function.LeftInverse h'₂ h₂) (f : Π₀ i, β i) :
```

File: Mathlib/Data/DFinsupp/Defs.lean [hunk 5]
```diff
@@ -1123,16 +1160,55 @@ theorem comapDomain'_single [DecidableEq ι] [DecidableEq κ] [∀ i, Zero (β i
...
 
+section mapRange.equiv
+variable [∀ i, Zero (β i)] [∀ i, Zero (β₁ i)] [∀ i, Zero (β₂ i)]
+
+/-- `DFinsupp.mapRange` as an equiv.
+
+Note that while `he'` is redundant, it allows `equiv_symm` to fire in both directions, as the
+proof is carried around. -/
+@[simps apply]
+def mapRange.equiv (e : ∀ i, β i ≃ β₁ i)
```
Comment (pechersky) [inline Mathlib/Data/DFinsupp/Defs.lean:1171]: this dot-style naming is a bit unconventional -- you're not getting any `mapRange` namespacing. What about `mapRangeEquiv`?

File: Mathlib/Data/DFinsupp/Defs.lean [hunk 6]
```diff
@@ -1123,16 +1160,55 @@ theorem comapDomain'_single [DecidableEq ι] [DecidableEq κ] [∀ i, Zero (β i
...
+theorem mapRange.equiv_symm (e : ∀ i, β i ≃ β₁ i) (he he') :
+    ((mapRange.equiv e he he').symm : (Π₀ i, β₁ i) ≃ _) =
+      mapRange.equiv (fun i => (e i).symm) he' he :=
+  Equiv.ext fun _ => rfl
+
+end mapRange.equiv
+
+private def equivCongrLeft_aux_proof [∀ i, Zero (β i)] (h : ι ≃ κ) (i : ι) :
+    (Equiv.cast <| congr_arg β <| h.symm_apply_apply i) 0 = 0 :=
+  (Equiv.cast_eq_iff_heq _).mpr <| by rw [h.symm_apply_apply]
```
Comment (pechersky) [inline Mathlib/Data/DFinsupp/Defs.lean:1203]: why factor this out?

File: Mathlib/Data/DFinsupp/Defs.lean [hunk 7]
```diff
@@ -1123,16 +1160,55 @@ theorem comapDomain'_single [DecidableEq ι] [DecidableEq κ] [∀ i, Zero (β i
...
+          (fun i => by rw [Equiv.symm_trans_apply, he₂', he']) :
+        (Π₀ i, β i) ≃ _) =
+      (mapRange.equiv e he he').trans (mapRange.equiv e₂ he₂ he₂') :=
+  Equiv.ext <| mapRange_comp _ _ he₂ he (fun i => (congrArg (e₂ i) (he i)).trans (he₂ i))
+
+@[simp]
+theorem mapRange.equiv_symm (e : ∀ i, β i ≃ β₁ i) (he he') :
+    ((mapRange.equiv e he he').symm : (Π₀ i, β₁ i) ≃ _) =
+      mapRange.equiv (fun i => (e i).symm) he' he :=
+  Equiv.ext fun _ => rfl
```
Comment (pechersky) [inline Mathlib/Data/DFinsupp/Defs.lean:1197]: can you please remind me, what is our general strategy about moving `trans` to the outside but `symm` to the inside?

File: Mathlib/Data/DFinsupp/Defs.lean (hunk 6 above)
Comment (pechersky) [reply Mathlib/Data/DFinsupp/Defs.lean:1203]: ah, because of the `equivCongrLeft_symm'` below? maybe leave a comment

File: Mathlib/Data/DFinsupp/Defs.lean [hunk 8]
```diff
@@ -1142,6 +1218,29 @@ def equivCongrLeft [∀ i, Zero (β i)] (h : ι ≃ κ) : (Π₀ i, β i) ≃ Π
     rw [comapDomain'_apply, mapRange_apply, comapDomain'_apply, Equiv.cast_eq_iff_heq,
       h.apply_symm_apply]
 
+@[simp]
+theorem equivCongrLeft_refl [∀ i, Zero (β i)] :
```
Comment (pechersky) [inline Mathlib/Data/DFinsupp/Defs.lean:1222]: in the section above, you have `variable ... [∀ i, Zero (β i)]`. Can you do the same here?

File: Mathlib/LinearAlgebra/DFinsupp.lean [hunk 9]
```diff
@@ -310,6 +302,36 @@ end AddCommGroup
 
 end mapRange
 
+section domLCongr
+
+/-- `DFinsupp.equivCongrLeft` as a linear equivalence.
+
+This is the `DFinsupp` version of `Finsupp.domLCongr`. -/
+@[simps! apply]
```
Comment (pechersky) [inline Mathlib/LinearAlgebra/DFinsupp.lean:310]: why only `simps! apply` when you use the declaration directly in a simp set below? What's bad about the `symm_apply` lemma?

**Comment by joneugster** [comment]
Mathlib has moved to PRs from forks. This PR is still from a branch of the main repository and will soon be closed! Please migrate the content to a fork and reopen a PR from there if you wish to do so. See [Zulip topic](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/all.20future.20PRs.20should.20be.20made.20from.20forks/with/624081853) for more instructions. Thank you for contributing to mathlib!
